US04994482
A mixture of deoxybenzoin (50 g, 0.255 mole) and N,N-dimethylformamide dimethyl acetal (37.9 g, 42.5 ml, 0.32 mole) was stirred at 120° C. under an atmosphere of nitrogen. After 30 minutes the heating source was removed and hydrazine (24 g, 24 ml, 0.75 mole) added dropwise to the hot mixture. After completing the addition, the mixture was poured onto water (600 ml) and a solid filtered off and air dried to afford 3,4-diphenyl-lH-pyrazole (52.18 g, 92%) which was used without further purification. An analytical sample was prepared by recrystallization from ethanol; m.p.=150°-152° C. (lit. m.p. =154°-155° C.).

reactant | deoxybenzoin | 0.255 mole, 50 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | N,N-dimethylformamide dimethyl acetal | 0.32 mole, 42.5 ml, 37.9 g | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine | 0.75 mole, 24 ml, 24 g | NN | H4N2
product | 3,4-diphenyl-lH-pyrazole | 52.18 g, 92% | C1(=CC=CC=C1)C1=NNC=C1C1=CC=CC=C1 | C15H12N2
